US07671238B2
A solution of (2RS,3RS)-2-hydroxy-3-[methyl(phenyl)amino]-3-phenylpropanamide (226 mg, 0.836 mmol) in dry tetrahydrofuran (2 mL) under nitrogen was treated slowly with a solution of borane (1.0 M in tetrahydrofuran, 4.20 mL, 4.20 mmol), and the resulting solution was stirred at 70° C. for 1 hour. After cooling in an ice bath, the reaction mixture was quenched with methanol (1 mL), followed by an aqueous hydrochloric acid solution (1N, 1 mL). The resulting mixture was stirred at 50° C. for 20 minutes. All volatiles were removed under reduced pressure. Water (10 mL) was added, and mixture was made alkaline using saturated aqueous potassium carbonate solution, and then extracted with ethyl acetate (15 mL). The organic layer was washed with water, brine, dried (anhydrous sodium sulfate) and concentrated under reduced pressure to yield 201 mg (94%) (1RS,2SR)-3-amino-1-[methyl(phenyl)amino]-1-phenylpropan-2-ol as a colorless oil. This oil was dissolved in ethanol (1 mL) and treated with a solution of hydrochloric acid (0.5 mL, 4M in 1,4-dioxane). All volatiles were again removed under reduced pressure. The resulting white solid was recrystallized (warm isopropanol/ethyl ether/−20° C.) to yield 225 mg (82%) of (1RS,2SR)-3-amino-1-[methyl(phenyl)amino]-1-phenylpropan-2-ol hydrochloride as a white powder. MS (ESI) m/z 257.0 ([M−H]+); HRMS: calculated for C16H20N2O+H, 257.1648; found (ESI, [M+H]+), 257.1642.

reactant | (2RS,3RS)-2-hydroxy-3-[methyl(phenyl)amino]-3-phenylpropanamide | 0.836 mmol, 226 mg | OC(C(=O)N)C(C1=CC=CC=C1)N(C1=CC=CC=C1)C | C16H18N2O2
reactant | borane | 4.20 mmol, 1.0 M, 4.20 mL | B | BH3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (1RS,2SR)-3-amino-1-[methyl(phenyl)amino]-1-phenylpropan-2-ol | 201 mg, 94% | NCC(C(C1=CC=CC=C1)N(C1=CC=CC=C1)C)O | C16H20N2O
